US07179823B1
Lithium aluminium hydride (0.58 g) was added to a solution of methyl 3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-carboxylate (9.02 g) in tetrahydrofuran (50 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. After water was added to the reaction mixture, the precipitate was removed by filtration and the filtrate was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and [3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol (8.20 g, yield: 97%) was obtained from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 98–99° C.

reactant | Lithium aluminium hydride | 0.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole-4-carboxylate | 9.02 g | C(C)(C)C1=NN(C=C1C(=O)OC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol | 8.20 g, yield: 97% | C(C)(C)C1=NN(C=C1CO)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H27N3O3
